US08440662B2
Step 1: 4-[3-(4-Bromo-2-fluoro-phenyl)-ureido]-benzoic acid ethyl ester
To a solution of 4-bromo-2-fluoroaniline (0.5 g, 0.0026 mol) and TEA (0.38 mL, 0.0026 mol) in DCM (15 mL) was added ethyl 4-isocyanatobenzoate (0.503 g, 0.0026 mol). The reaction mixture was stirred at room temperature for 3 h. The white solid was obtained and was filtered and dried to afford the title compound [0.7 g, 70%]; LC-MS (ESI): Calculated mass: 380.0; Observed mass: 381.0 [M+H]+ (RT: 1.78 min).

reactant | 4-bromo-2-fluoroaniline | 0.0026 mol, 0.5 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | ethyl 4-isocyanatobenzoate | 0.0026 mol, 0.503 g | N(=C=O)C1=CC=C(C(=O)OCC)C=C1 | C10H9NO3
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-[3-(4-Bromo-2-fluoro-phenyl)-ureido]-benzoic acid ethyl ester | 0.7 g, 70% | C(C)OC(C1=CC=C(C=C1)NC(=O)NC1=C(C=C(C=C1)Br)F)=O | C16H14BrFN2O3
